US08008334B2
a) 8-[4-(1,1-Dimethoxyethyl)phenyl]-5,6,7,8-tetrahydroimidazo[1,5-a]pyridin-8-ol
The Grignard reagent, prepared from 3.68 mmol of 1-bromo-4-(1,1-dimethoxyethyl)benzene [53578-00-0] and 14.72 mmol of magnesium in 5.5 ml of tetrahydrofuran is added slowly dropwise to a solution of 1.84 mmol of 6,7-dihydro-5H-imidazo[1,5-a]pyridin-8-one [426219-51-4] in 10 ml of tetrahydrofuran under argon. The reaction mixture is stirred at room temperature for 12 hours and then quenched with 0.5N HCl. It is extracted with dichloromethane and the phases are separated. The aqueous phase is rendered basic with sodium hydrogen carbonate and the precipitated solid is isolated by filtration and dried at 40° C. The title compound is obtained as a greyish solid. Rt=3.42 (Gradient I). By the process described in Example 3 the following compounds are prepared analogously:

reactant | 1-bromo-4-(1,1-dimethoxyethyl)benzene | 3.68 mmol | BrC1=CC=C(C=C1)C(C)(OC)OC | C10H13BrO2
reactant | magnesium | 14.72 mmol | [Mg] | Mg
reactant | 6,7-dihydro-5H-imidazo[1,5-a]pyridin-8-one | 1.84 mmol | C=1N=CN2C1C(CCC2)=O | C7H8N2O
solvent | tetrahydrofuran | 5.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 8-[4-(1,1-Dimethoxyethyl)phenyl]-5,6,7,8-tetrahydroimidazo[1,5-a]pyridin-8-ol | COC(C)(OC)C1=CC=C(C=C1)C1(C=2N(CCC1)C=NC2)O | C17H22N2O3
